US08580824B2
To a solution of 2-ethyl-4-[5-(2-ethyl-6-methyl-pyridin-4-yl)-[1,2,4]oxadiazol-3-yl]-6-methyl-phenol (89 mg, 0.276 mmol) in 3 N aq. NaOH (1 mL) and isopropanol (4 mL), (R)-epichlorohydrine (142 mg, 1.53 mmol) is added. The mixture is stirred at rt for 24 h before another portion of (R)-epichlorohydrine (142 mg; 1.53 mmol) is added. Stirring is continued for another 24 h at rt. The mixture is diluted with EA (50 mL) and washed with 1M aq. NaOH (10 mL) and brine (10 mL). The org. phase is dried over MgSO4, filtered and evaporated to give crude (S)-2-ethyl-4-[3-(3-ethyl-5-methyl-4-oxiranylmethoxy-phenyl)-[1,2,4]oxadiazol-5-yl]-6-methyl-pyridine; LC-MS*: tR=1.11* min; [M+1]+=380.24.

reactant | 2-ethyl-4-[5-(2-ethyl-6-methyl-pyridin-4-yl)-[1,2,4]oxadiazol-3-yl]-6-methyl-phenol | 0.276 mmol, 89 mg | C(C)C1=C(C(=CC(=C1)C1=NOC(=N1)C1=CC(=NC(=C1)C)CC)C)O | C19H21N3O2
reactant | (R)-epichlorohydrine | 1.53 mmol, 142 mg | C(Cl)[C@H]1CO1 | C3H5ClO
reactant | (R)-epichlorohydrine | 1.53 mmol, 142 mg | C(Cl)[C@H]1CO1 | C3H5ClO
solvent | NaOH | 3 N, 1 mL | [OH-].[Na+]
solvent | isopropanol | 4 mL | C(C)(C)O | C3H8O
solvent | EA | 50 mL | CC(OCC)=O | C4H8O2
product | (S)-2-ethyl-4-[3-(3-ethyl-5-methyl-4-oxiranylmethoxy-phenyl)-[1,2,4]oxadiazol-5-yl]-6-methyl-pyridine | C(C)C1=NC(=CC(=C1)C1=NC(=NO1)C1=CC(=C(C(=C1)C)OC[C@H]1OC1)CC)C | C22H25N3O3
